US04365989
2-Thiocyanomethylthio-4,4-dimethyl-5-methylenethiazoline, 4.0 gm (prepared in a manner consistent with Examples 1 and 2) was added to 100 ml of dichloromethane. 3.11 gm of 4-chlorophenylthiochloride was added to the system. The system was stirred at room temperature for 48 hours. The product precipitated from solution. The product was filtered and air-dried to give 4.7 gm of the 2-thiocyanomethylthio-4,4-dimethyl-5-(4-chlorophenylthio)methylenethiazoline as an off-white solid, m.p. 122°-131° C. Listed as compound number 1 in Table I.

reactant | 2-Thiocyanomethylthio-4,4-dimethyl-5-methylenethiazoline | S(C#N)CSC=1SC(C(N1)(C)C)=C | C8H10N2S3
reactant | 4-chlorophenylthiochloride | 3.11 gm | ClC1=CC=C(C=C1)SCl | C6H4Cl2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-thiocyanomethylthio-4,4-dimethyl-5-(4-chlorophenylthio)methylenethiazoline | 4.7 gm | S(C#N)CSC=1SC(C(N1)(C)C)=CSC1=CC=C(C=C1)Cl | C14H13ClN2S4
